US09450188B2
Step 2: Synthesis of 3,6-Bis(dibenzofuran-4-yl)-9-[4-(10-phenyl-9-anthryl)phenyl]-9H-carbazole (abbreviation: DBF2CzPA-II)
To a 100-mL three-neck flask were added 0.99 g (2.4 mmol) of 9-(4-bromophenyl)-10-phenylanthracene, 1.2 g (2.4 mmol) of 3,6-bis(dibenzofuran-4-yl)-9H-carbazole, and 0.62 g (6.4 mmol) of sodium tert-butoxide. After the air in the flask was replaced with nitrogen, to this mixture were added 20 mL of toluene and 0.2 mL of tri(tert-butyl)phosphine (a 10 wt % hexane solution). This mixture was degassed by being stirred while the pressure was reduced. After the degassing, 62 mg (0.11 mmol) of bis(dibenzylideneacetone)palladium(0) was added to the mixture. This mixture was stirred at 110° C. for 20 hours under a nitrogen stream. After the stirring, 100 mL of toluene was added to the obtained mixture, and the mixture was suction-filtered through Celite (produced by Wako Pure Chemical Industries, Ltd., Catalog No. 531-16855), alumina, and Florisil (produced by Wako Pure Chemical Industries, Ltd., Catalog No. 540-00135). The oily substance obtained by concentration of the filtrate was recrystallized from toluene/hexane, so that 1.2 g of a yellow solid was obtained in 59% yield. The synthesis scheme of Step 2 is illustrated in (b-8).

reactant | 9-(4-bromophenyl)-10-phenylanthracene | 2.4 mmol, 0.99 g | BrC1=CC=C(C=C1)C=1C2=CC=CC=C2C(=C2C=CC=CC12)C1=CC=CC=C1 | C26H17Br
reactant | 3,6-bis(dibenzofuran-4-yl)-9H-carbazole | 2.4 mmol, 1.2 g | C1=CC=C(C=2OC3=C(C21)C=CC=C3)C=3C=CC=2NC1=CC=C(C=C1C2C3)C3=CC=CC2=C3OC3=C2C=CC=C3 | C36H21NO2
reactant | sodium tert-butoxide | 6.4 mmol, 0.62 g | CC(C)([O-])C.[Na+]
reactant | tri(tert-butyl)phosphine | 0.2 mL | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
catalyst | bis(dibenzylideneacetone)palladium(0) | 0.11 mmol, 62 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
solvent | hexane | CCCCCC | C6H14
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 3,6-Bis(dibenzofuran-4-yl)-9-[4-(10-phenyl-9-anthryl)phenyl]-9H-carbazole | 59% yield | C1=CC=C(C=2OC3=C(C21)C=CC=C3)C=3C=CC=2N(C1=CC=C(C=C1C2C3)C3=CC=CC2=C3OC3=C2C=CC=C3)C3=CC=C(C=C3)C=3C2=CC=CC=C2C(=C2C=CC=CC32)C3=CC=CC=C3 | C62H37NO2
